US04863920
2.5 g (7.5 mmol) of (S)-8-chloro-1-[(Z)-2-chlorovinyl]-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one was heated to boiling under reflux for 5 hours together with 1.66 ml (11.2 mmol) of 1,8-diazabicyclo[5.4.0]undec-7-ene in 30 ml of N,N-dimethylformamide. The reaction mixture was subsequently poured into 400 ml of water and the crystals obtained were filtered off. After drying and recrystallization from N,N-dimethylformamide there was obtained (S)-8-chloro-1-ethynyl-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one of melting point 324°-325°.

reactant | (S)-8-chloro-1-[(Z)-2-chlorovinyl]-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one | 7.5 mmol, 2.5 g | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3\C=C/Cl)CCC1)=O | C16H13Cl2N3O
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 11.2 mmol, 1.66 ml | N12CCCCCC2=NCCC1 | C9H16N2
reactant | water | 400 ml | O | H2O
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | (S)-8-chloro-1-ethynyl-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C#C)CCC1)=O | C16H12ClN3O
